US05510346
N-Methyl-2 methylamino-α-(3-methyl-2-thienyl )-benzeneethanamine dihydrochloride
N-Formyl-N-methyl-2-methylamino-α-(3-methyl-2-thienyl)benzenethanamine (4.1 g) was treated with 18 ml of 3N hydrochloric acid. After refluxing for 1.5 hours the solution was decanted over ice, basified with 12 ml of a 50% aqueous sodium hydroxide solution and extracted with dichloromethane (3×60 ml). The organic phase was dried over anhydrous sodium sulfate and concentrated to an oil. Purification of the oil was accomplished by HPLC (Water's Associates Prep LC/System 500, silica gel, elution with methanol). Concentration of the appropriate fractions afforded a residue which was dissolved in diethyl ether, filtered free of insolubles, and concentrated to afford N-methyl-2-methylamino-α-(3-methyl-2-thienyl)benzeneeethanamine as an oil. The oil was dissolved in methanol and treated with ethereal hydrogen chloride. Dilution with diethyl ether precipitated 2.4 g of the corresponding dihydrochoride salt, mp 191°-192° C.

reactant | N-Formyl-N-methyl-2-methylamino-α-(3-methyl-2-thienyl)benzenethanamine | 4.1 g | C(=O)N(C(CC1=C(C=CC=C1)NC)C=1SC=CC1C)C | C16H20N2OS
reactant | hydrochloric acid | 3N, 18 ml | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
product | N-Methyl-2 methylamino-α-(3-methyl-2-thienyl )-benzeneethanamine dihydrochloride | Cl.Cl.CNC(CC1=C(C=CC=C1)NC)C=1SC=CC1C | InChI=1S/C15H20N2S.2ClH/c1-11-8-9-18-15(11)14(17-3)10-12-6-4-5-7-13(12)16-2;;/h4-9,14,16-17H,10H2,1-3H3;2*1H
